US07897607B2
Diethyl [1-ethoxy-2-(6-mesitylpyridin-2-yl)-3-oxohexyl]malonate
Diisopropyl amine (0.16 mL, 1.13 mmol) was dissolved in tetrahydrofuran (2 mL). n-Butyllithium (2.5M, 0.45 mL, 1.13 mmol) was added at 0° C. and the reaction stirred for 0.5 h. The solution was cooled to −78° C. and 1-(6-mesityl-pyridin-2-yl)-pentan-2-one (0.29 g, 1.0 mmol) was added. After 0.5 h, ethyl ethoxymethylene malonate (0.21 mL, 1.0 mmol) was added and the reaction was warmed to room temperature. The solution was quenched with water, extracted with ethyl acetate, dried, and concentrated. Flash chromatography (10%-20% ethyl acetate/hexanes) gave the title compound as a mixture of two isomers.

reactant | Diisopropyl amine | 1.13 mmol, 0.16 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyllithium | 1.13 mmol, 2.5M, 0.45 mL | C(CCC)[Li]
reactant | 1-(6-mesityl-pyridin-2-yl)-pentan-2-one | 1.0 mmol, 0.29 g | C1(=C(C(=CC(=C1)C)C)C1=CC=CC(=N1)CC(CCC)=O)C | C19H23NO
reactant | ethyl ethoxymethylene malonate | 1.0 mmol, 0.21 mL | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | Diethyl [1-ethoxy-2-(6-mesitylpyridin-2-yl)-3-oxohexyl]malonate | C(C)OC(C(C(CCC)=O)C1=NC(=CC=C1)C1=C(C=C(C=C1C)C)C)C(C(=O)OCC)C(=O)OCC | C29H39NO6
